US07547680B2
4-Hydroxy-3-(4-hydroxybutoxy)benzonitrile
4-Benzyloxy-3-(4-benzyloxybutoxy)benzonitrile (4.0 g) was dissolved in a mixed solvent of trifluoroacetic acid (9 mL), dimethylsulfide (0.5 mL) and water (5 mL), and the mixture was stirred at room temperature for 18 hours. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/5) to give the title compound (1.0 g).

reactant | 4-Benzyloxy-3-(4-benzyloxybutoxy)benzonitrile | 4.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)OCCCCOCC1=CC=CC=C1 | C25H25NO3
solvent | trifluoroacetic acid | 9 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylsulfide | 0.5 mL | CSC | C2H6S
solvent | water | 5 mL | O | H2O
product | 4-Hydroxy-3-(4-hydroxybutoxy)benzonitrile | 1.0 g | OC1=C(C=C(C#N)C=C1)OCCCCO | C11H13NO3
